US08471005B2
The compound was made in an analogous fashion to Example 322 replacing 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine with 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine to afford 16.33 mg of 1-[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-1H-imidazo[4,5-c]pyridine as a lyophilized powder. (M+H)=391.6. 1H NMR (400 MHz, DMSO, d6) δ 9.53 (m, 3H), 8.81 (m, 1H), 8.62 (d, 1H, J=6.32 Hz), 8.54 (m, 2H), 8.18 (m, 2H), 7.81 (d, 1H, J=4.92 Hz), 7.46 (d, 1H, J=4.93 Hz), 2.50 (s, 3H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)S(=O)(=O)C | C14H13N3O3S2
product | 1-[7-(4-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-1H-imidazo[4,5-c]pyridine | 16.33 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)N2C=NC=1C=NC=CC12 | C19H14N6O2S
